US07208495B2
1-(3-cyclohexyl-3-hydroxy-2,2,4,6,7-pentamethyl-2,3-dihydro-1-benzofuran-5-yl)-4-(4-methoxyphenyl)piperazine
Cyclohexyl magnesium bromide (THF solution 1.0 M, 35 mL, 35 mmol) was added to a solution of 4-(4-methoxyphenyl)-1-(2,2,4,6,7-pentamethyl-2,3-dihydro-1-benzofuran-3-on-5-yl)piperazine (1.00 g, 2.53 mmol) obtained in Reference Example 13 in THF (10 ml) under ice cooling and the reaction mixture was allowed to warm to room temperature. After stirring for one hour, the resulting mixture was poured into water and extracted with ethyl acetate. The organic extract was washed with water and saturated aqueous sodium chloride, dried over anhydrous sodium sulfate, and concentrated under reduced pressure. The residue was purified with silica gel column chromatography (hexane/ethyl acetate=8/1) to obtain 970 mg (yield 80%) of the title compound via recrystallization (hexane). mp. 166–167° C.

reactant | Cyclohexyl magnesium bromide | 35 mmol, 1.0 M, 35 mL | C1(CCCCC1)[Mg]Br
reactant | 4-(4-methoxyphenyl)-1-(2,2,4,6,7-pentamethyl-2,3-dihydro-1-benzofuran-3-on-5-yl)piperazine | 2.53 mmol, 1.00 g | COC1=CC=C(C=C1)N1CCN(CC1)C=1C(=C(C2=C(C(C(O2)(C)C)=O)C1C)C)C | C24H30N2O3
reactant | water | O | H2O
solvent | THF | 10 ml | C1CCOC1 | C4H8O
product | 1-(3-cyclohexyl-3-hydroxy-2,2,4,6,7-pentamethyl-2,3-dihydro-1-benzofuran-5-yl)-4-(4-methoxyphenyl)piperazine | 970 mg, yield 80% | C1(CCCCC1)C1(C(OC2=C1C(=C(C(=C2C)C)N2CCN(CC2)C2=CC=C(C=C2)OC)C)(C)C)O | C30H42N2O3
